US04163846
2-[3-amino-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-on-2-yl]ethanesulphonic acid (I)
3-Amino-2-(2-hydroxyethyl)-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one (5 g) prepared as in Example 52 was added to concentrated sulphuric acid (10 ml). The solution was kept at 130°-135° C. for 3 hours, then cooled and poured onto ice (30 g). The precipitate which formed was filtered off, water washed and dissolved in 2 M sodium hydroxide solution. A trace of solid was filtered off, and the filtrate was acidified with concentrated hydrochloric acid to re-precipitate the title compound (4.4 g), m.p. 307°-309° C. decomp.

reactant | 3-Amino-2-(2-hydroxyethyl)-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one | 5 g | NC=1N(N=C2N=C(NC(C21)=O)C(C)(C)C)CCO | C11H17N5O2
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-[3-amino-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-on-2-yl]ethanesulphonic acid | NC=1N(N=C2N=C(NC(C21)=O)C(C)(C)C)CCS(=O)(=O)O | C11H17N5O4S
